US06331553B1
Synthesis of 2-(3-(t-butoxycarbonylaminomethyl)phenylamino)-4-methylpyridine
A mixture of 3-(di-(t-butoxycarbonyl)aminomethyl)bromobenzene (260 mg), tris(dibenzylideneacetone)dipalladium (42 mg), diphenylphosphinoferrocene (50 mg), potassium t-butoxide (102 mg), 2-amino-4-methylpyridine (108 mg) and toluene (10 ml) was heated under a nitrogen atmosphere at 80° C. for 22 h. Ethyl acetate and water were added to the reaction mixture. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, ethyl acetate:n-hexane=1:1) to give 29.2 mg of the titled compound (yield, 10%).

reactant | 3-(di-(t-butoxycarbonyl)aminomethyl)bromobenzene | 260 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)Br | C17H24BrNO4
reactant | potassium t-butoxide | 102 mg | CC(C)([O-])C.[K+]
reactant | 2-amino-4-methylpyridine | 108 mg | NC1=NC=CC(=C1)C | C6H8N2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 42 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | diphenylphosphinoferrocene | 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-(t-butoxycarbonylaminomethyl)phenylamino)-4-methylpyridine | 29.2 mg, 10% | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)NC1=NC=CC(=C1)C | C18H23N3O2
